US06657086B2
0.98 g (4 mmol) of 2-bromo-5-chloroindan-1-one and 0.42 g (6 mmol) of sodium thiomethoxide were suspended in 5 ml of ethanol, treated in an ultrasonic bath for 30 minutes and then stirred at room temperature for 90 minutes. The reaction mixture was concentrated under reduced pressure and chromatographed on silica gel using toluene/ethyl acetate 10/1. The eluates were concentrated under reduced pressure, giving 5-chloro-2-methylsulfanylindan-1-one of melting point 90° C.

reactant | 2-bromo-5-chloroindan-1-one | 4 mmol, 0.98 g | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | sodium thiomethoxide | 6 mmol, 0.42 g | C[S-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-chloro-2-methylsulfanylindan-1-one | ClC=1C=C2CC(C(C2=CC1)=O)SC | C10H9ClOS
